US07482452B2
Sodium 1-(2-chlorophenyl)-3-cyano-6-oxo-1,6-dihydropyridine-2-thiolate
NaHMDS (13.2 mL, 1.0M in THF, 13.2 mmol) was added slowly to a solution of 2-chlorophenyl isothiocyanate (1.02 g, 6.0 mmol) in THF (50 mL) and acetonitrile (5 mL) at −78° C. The mixture was warmed to r.t. over 1 h. N,N-Dimethyluracil (841 mg, 6.0 mmol) and EtOH (75 mL) were added and the mixture heated at reflux for 4 h. Volatiles were removed in vacuo and the residue was dissolved in hot EtOH (10 mL). Et2O (˜100 mL) was added slowly to precipitate out the product. The solid was filtered off, washed with Et2O (2×30 mL) and dried to give the title compound (1.5 g, 88%) (v. hygroscopic). δH (DMSO-d6) 7.35-7.32 (1H, m), 7.25-7.20 (2H, m), 7.15 (1H, d, J 9.1 Hz), 7.05-7.01 (1H, m), 5.85 (1H, br s), 5.58 (1H, d, J 9.1 Hz). LCMS (ES+) RT 3.06 minutes, 285 (M+H)+.

reactant | NaHMDS | 13.2 mmol, 1.0M, 13.2 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-chlorophenyl isothiocyanate | 6.0 mmol, 1.02 g | ClC1=C(C=CC=C1)N=C=S | C7H4ClNS
reactant | EtOH | 75 mL | CCO | C2H6O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | Sodium 1-(2-chlorophenyl)-3-cyano-6-oxo-1,6-dihydropyridine-2-thiolate | 1.5 g, 88% | ClC1=C(C=CC=C1)N1C(=C(C=CC1=O)C#N)[S-].[Na+] | InChI=1S/C12H7ClN2OS.Na/c13-9-3-1-2-4-10(9)15-11(16)6-5-8(7-14)12(15)17;/h1-6,17H;/q;+1/p-1
